US05849930
To a suspension of N-chorosuccinimide (1.15 g) in dichloromethane (40 ml) was added dimethylsulfide (0.72 g) while being cooled with ice. Then, a solution of 4-geranyloxybenzyl alcohol (1.50 g) in dichloromethane (10 ml) was added thereto and the resulting mixture was stirred for 3 hours at room temperature. The reaction solution, with brine added thereto, was extracted with ethyl acetate. The extract was concentrated under a vacuum to yield a raw product of 4-geranyloxybenzyl chloride.

reactant | N-chorosuccinimide | 1.15 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethylsulfide | 0.72 g | CSC | C2H6S
reactant | 4-geranyloxybenzyl alcohol | 1.50 g | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(CO)C=C1 | C17H24O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | 4-geranyloxybenzyl chloride | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(CCl)C=C1 | C17H23ClO
